US09120749B2
4-(3,3-difluoropyrrolidin-1-yl)cyclohexanamine
Following General procedure I, 3,3-difluoropyrrolidine hydrochloride (468 mg, 3.26 mmol) was reacted with tert-butyl 4-oxocyclohexylcarbamate (500 mg, 2.34 mmol) to afford the desired product (507 mg, quant.) as a colorless oil: ESI MS m/z 205 [C10H18F2N2+H]+.

reactant | 3,3-difluoropyrrolidine hydrochloride | 3.26 mmol, 468 mg | Cl.FC1(CNCC1)F
reactant | tert-butyl 4-oxocyclohexylcarbamate | 2.34 mmol, 500 mg | O=C1CCC(CC1)NC(OC(C)(C)C)=O | C11H19NO3
product | 4-(3,3-difluoropyrrolidin-1-yl)cyclohexanamine | 507 mg | FC1(CN(CC1)C1CCC(CC1)N)F | C10H18F2N2
